US06083959
To a stirred solution of 2,6-dichloro-3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]-1-(hydroxymethyl)benzene (150 mg) and triethylamine (60 mg) in N,N-dimethylformamide (1.5 ml) was dropwise added mesyl chloride (35.7 mg) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature. To the mixture was added 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline (66.9 mg) and potassium carbonate (205 mg) at ambient temperature, and the mixture was stirred overnight at the same temperature. Water and ethyl acetate were added thereto, and the separated organic layer was washed with 1N sodium hydroxide solution and water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography on silica gel (chloroform-methanol) to give 8-[2,6-dichloro-3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline (158 mg) as pale yellow amorphous.

reactant | 2,6-dichloro-3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]-1-(hydroxymethyl)benzene | 150 mg | ClC1=C(C(=CC=C1N(C)C(CNC(\C=C\C=1C=NC(=CC1)C(=O)OCC)=O)=O)Cl)CO | C21H21Cl2N3O5
reactant | mesyl chloride | 35.7 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 8-hydroxy-4-(imidazol-1-yl)-2-methylquinoline | 66.9 mg | OC=1C=CC=C2C(=CC(=NC12)C)N1C=NC=C1 | C13H11N3O
reactant | potassium carbonate | 205 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | triethylamine | 60 mg | C(C)N(CC)CC | C6H15N
product | 8-[2,6-dichloro-3-[N-[(E)-3-(6-ethoxycarbonylpyridin-3-yl)acryloylglycyl]-N-methylamino]benzyloxy]-4-(imidazol-1-yl)-2-methylquinoline | 158 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)N2C=NC=C2)C(=CC=C1N(C)C(CNC(\C=C\C=1C=NC(=CC1)C(=O)OCC)=O)=O)Cl | C34H30Cl2N6O5
